US07297704B2
3-[N′-(4-Fluoro-phenyl)-hydrazino]-cyclohex-2-enone
The title compound was prepared by a modification of a published procedure (Brueckner R. et al., European Patent EP 1 424 337 A1 (2004)). To a stirred solution of cyclohexane-1,3-dione (10 g, 0.089 mol) in ethanol (50 mL) and water (150 mL) was added portionwise under nitrogen over 15 minutes 4-fluorophenyl hydrazine hydrochloride (14.5 g, 0.089 mol). After 10 minutes 120 mL of 3:1 (v/v) water/ethanol was added in three portions. Solid sodium acetate (7.2 g) was then added portionwise over 45 minutes. The mixture was stirred for another 30 minutes at room temperature. The brown solid was collected, washed with 2×30 mL of 3:1 (v/v) water/ethanol and water, and dried in vacuo overnight to provide the title compound (16.48 g). MS (ES): [M+H]+ @m/z 221.1.

reactant | cyclohexane-1,3-dione | 0.089 mol, 10 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 4-fluorophenyl hydrazine hydrochloride | 0.089 mol, 14.5 g | Cl.FC1=CC=C(C=C1)NN
reactant | water ethanol | 120 mL | O.C(C)O
reactant | sodium acetate | 7.2 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | 3-[N′-(4-Fluoro-phenyl)-hydrazino]-cyclohex-2-enone | 16.48 g | FC1=CC=C(C=C1)NNC1=CC(CCC1)=O | C12H13FN2O
